US09334245B2
1-Chloroethyl cyclohexyl carbonate (240 mg, 1.2 mmol) was added to a mixture of (2S,4R)-5-biphenyl-4-yl-4-t-butoxycarbonylamino-2-hydroxymethyl-2-methyl-pentanoic acid (300 mg, 726 μmol) and Et3N (106 μL, 762 μmol) in acetone (10 mL). The mixture was refluxed for 24 hours and the reaction monitored for completion. The individual isomers were separated (˜1:1) and purified (Interchim reverse phase chromatography column) the solvent was removed under vacuum. MeCN (2 mL) and 4 M HCl in 1,4-dioxane (3 mL, 10 mmol) was added and the resulting mixture was stirred for 30 minutes. The solvent was evaporated under vacuum and the product was azeotroped with toluene (1×) to yield (2S,4R)-4-amino-5-biphenyl-4-yl-2-hydroxymethyl-2-methyl-pentanoic acid 1-cyclohexyloxycarbonyloxy-ethyl ester.

reactant | 1-Chloroethyl cyclohexyl carbonate | 1.2 mmol, 240 mg | C(OC(C)Cl)(OC1CCCCC1)=O | C9H15ClO3
reactant | (2S,4R)-5-biphenyl-4-yl-4-t-butoxycarbonylamino-2-hydroxymethyl-2-methyl-pentanoic acid | 726 μmol, 300 mg | C1(=CC=C(C=C1)C[C@H](C[C@@](C(=O)O)(C)CO)NC(=O)OC(C)(C)C)C1=CC=CC=C1 | C24H31NO5
reactant | Et3N | 762 μmol, 106 μL | CCN(CC)CC | C6H15N
reactant | HCl | 4 M | Cl | ClH
reactant | 1,4-dioxane | 10 mmol, 3 mL | O1CCOCC1 | C4H8O2
solvent | acetone | 10 mL | CC(=O)C | C3H6O
solvent | MeCN | 2 mL | CC#N | C2H3N
product | (2S,4R)-4-amino-5-biphenyl-4-yl-2-hydroxymethyl-2-methyl-pentanoic acid 1-cyclohexyloxycarbonyloxy-ethyl ester | C1(CCCCC1)OC(=O)OC(C)OC([C@](C[C@@H](CC1=CC=C(C=C1)C1=CC=CC=C1)N)(C)CO)=O | C28H37NO6
